US05500423
1-Acetyl-4-[5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl]piperidine
A mixture of 1-acetyl-N-(quinolin-8-yl)-4-piperidinecarboxamide (51.28 g), glacial acetic acid (800 ml), and platinum oxide (4.00 g) was shaken under hydrogen at ambient temperature until the calculated amount of hydrogen was consumed. The platinum oxide was filtered through a bed of celite and the filter cake was washed with acetic acid. The filtrate was evaporated to ~200 ml, and was then stirred under reflux for four hrs, basified with 10% ammonium hydroxide solution and extracted with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was combined with material from another reaction mixture. The combined residue was purified by high performance liquid chromatography (silica gel; 20:1 dichloromethane-methanol). The appropriate fractions were collected and evaporated. The residue was crystallized from ethyl acetate and then recrystallized from ethyl acetate to give 50.2 g (76%) of product, mp 139°-140° C.

reactant | 1-acetyl-N-(quinolin-8-yl)-4-piperidinecarboxamide | 51.28 g | C(C)(=O)N1CCC(CC1)C(=O)NC=1C=CC=C2C=CC=NC12 | C17H19N3O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 4.00 g | [Pt]=O
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 1-Acetyl-4-[5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl]piperidine | 50.2 g, 76% | C(C)(=O)N1CCC(CC1)C1=NC=2C=CC=C3CCCN1C23 | C17H21N3O
